US04735940
3.8 g of 2-(dimethylamino)ethyl 5,6-dihydro-8-oxo-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate in 90 ml of methylene chloride were treated with 9 ml of 3N ethanolic hydrochloric acid, whereupon the mixture was cooled to -10° C. The mixture was treated dropwise with 1.72 g of about 90 percent m-chloroperbenzoic acid in 45 ml of methylene chloride. After warming to room temperature, the mixture was washed with 100 ml of 5 percent sodium hydrogen carbonate solution, dried over sodium sulfate, filtered and evaporated in vacuo. The residue was purified by chromatography on silica gel and then dissolved in 34 ml of methylene chloride. After the addition of 3N ethanolic hydrochloric acid until an acidic reaction was obtained, the mixture was stirred at room temperature for an additional 15 minutes. After removal of the solvent in vacuo and recrystallization from methanol, there was obtained 2-(dimethylamino)ethyl 5,6-dihydro-8-oxo-9-phenyl-8-H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate 4-oxide hydrochloride as yellow crystals of m.p. 148°-152° (dec.).

reactant | 2-(dimethylamino)ethyl 5,6-dihydro-8-oxo-9-phenyl-8H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate | 3.8 g | O=C1C(=CC(=C2N1CCSC1=C2SC=C1)C(=O)OCCN(C)C)C1=CC=CC=C1 | C22H22N2O3S2
reactant | hydrochloric acid | 3N, 9 ml | Cl | ClH
reactant | m-chloroperbenzoic acid | 1.72 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 2-(dimethylamino)ethyl 5,6-dihydro-8-oxo-9-phenyl-8-H-pyrido[1,2-d]thieno[2,3-f][1,4]thiazepine-11-carboxylate 4-oxide hydrochloride | Cl.O=C1C(=CC(=C2N1CCS(C1=C2SC=C1)=O)C(=O)OCCN(C)C)C1=CC=CC=C1 | InChI=1S/C22H22N2O4S2.ClH/c1-23(2)9-11-28-22(26)17-14-16(15-6-4-3-5-7-15)21(25)24-10-13-30(27)18-8-12-29-20(18)19(17)24;/h3-8,12,14H,9-11,13H2,1-2H3;1H
